US05399542
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-cyanomethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one
To 15 mL of methyl sulfoxide were added in sequence, 1.2 g (3.4 mmol) of 2-propionyl-3-hydroxy-5-(N-cyanomethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one, 0.42 g (4.4 mmol) of ethoxyamine hydrochloride an d 0.36 g (4.4 mmol) of anhydrous sodium acetate. The resulting mixture was stirred at ambient temperature for 5 and 1/2 hours, becoming a clear amber solution. The reaction mixture was diluted with 100 mL of 0.1N HCl and extracted twice with 30 mL portions of ether. The extracts were combined, washed with water, then aqueous sodium chloride, dried over MgSO4 and filtered. Evaporation off of the solvent gave the crude product as a light amber oil which solidified upon standing. The crude solid was triturated in warm ether and the product isolated by filtration as a tan solid. The product was recovered in a yield of 1.1 g (81 percent of theoretical) and melted at 156°-159° C.; 1H NMR(CDCl3): d1.05-1.41 (m, 6H, both --CCH2CH3 's), 2.57-3.62 (m, 7H), 4.17 (q, J=7 Hz, 2H,--OCH2CH3), 4.70 (s, 2H, --OCH2C=O), 4.88 (s, 2H, --NCH2CN), 6.92-7.20 (m, 3H, aromatic H's), 15.10 (broad s, 1H, enol H); (Compound 4).

reactant | methyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | 2-propionyl-3-hydroxy-5-(N-cyanomethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | 3.4 mmol, 1.2 g | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CC#N)C1)=O | C19H18N2O5
reactant | ethoxyamine hydrochloride | 4.4 mmol, 0.42 g | Cl.C(C)ON
reactant | sodium acetate | 4.4 mmol, 0.36 g | C(C)(=O)[O-].[Na+]
solvent | HCl | 0.1N, 100 mL | Cl | ClH
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-cyanomethyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CC#N)C1)=O | C21H23N3O5
